US05041462
Preparation of 2-(acetoxyacetylamino)-6-(N-ethyl-N-methylamino)benzonitrile:
To a solution of 2-amino-6-(N-ethyl-N-methylamino)-benzonitrile (4 g) in methylene chloride (200 ml) is added pyridine (2.4 ml), and thereto is added dropwise acetoxyacetyl chloride (3.3 ml) which is cooled in an ice bath. The mixture is stirred at room temperature for 1 hour, and thereafter, water is added thereto, and the mixture is extracted with methylene chloride. The organic layer is dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The resulting residue is recrystallized from hexane to give the title compound (4.2 g) having the following physical properties.

reactant | 2-amino-6-(N-ethyl-N-methylamino)-benzonitrile | 4 g | NC1=C(C#N)C(=CC=C1)N(C)CC | C10H13N3
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 3.3 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(acetoxyacetylamino)-6-(N-ethyl-N-methylamino)benzonitrile | 4.2 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)N(C)CC | C14H17N3O3
